US05068325
4l) 2-Amino-6-(3-(2-methyl-phenyl)allyl)-4,5,7,8-tetrahydro-6H-thiazolo[5,4-d]azepine
Prepared from 2-methyl-cinnamyl chloride and 2 equivalents of 2-amino-4,5,7,8-tetrahydro-6H-thiazolo[5,4-d]azepine in chloroform. Yield: 52% of theory, Melting point: 112°-115° C. (ethyl acetate).

reactant | 2-methyl-cinnamyl chloride | CC1=C(C=CCCl)C=CC=C1 | C10H11Cl
reactant | 2-amino-4,5,7,8-tetrahydro-6H-thiazolo[5,4-d]azepine | 2 equivalents | NC=1SC=2CCNCCC2N1 | C7H11N3S
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 2-Amino-6-(3-(2-methyl-phenyl)allyl)-4,5,7,8-tetrahydro-6H-thiazolo[5,4-d]azepine | Yield: 52% | NC=1SC=2CCN(CCC2N1)CC=CC1=C(C=CC=C1)C | C17H21N3S
